US08278290B2
(ii) 2-t-Butyldimethylsilanyl-3-formyl-6-methoxy-7-isopropoxy-benzofuran
To a solution of 2-t-butyldimethylsilyl-3-(t-butyldimethylsilyloxymethylene)-6-methoxy-7-isopropoxy-benzofuran (2.69 mmol) in methanol (100 mL) was added concentrated hydrochloric acid (200 μL) and the reaction was stirred for 30 minutes (tlc), quenched with triethylamine (2 mL) and the solvent removed by distillation under vacuum. The residue was dissolved in dichloromethane (20 mL), washed with water (10 mL), dried over magnesium sulphate, concentrated under vacuum and co-distilled with toluene (20 mL). The crude product was dissolved in dry dichloromethane (4 mL) and added to a stirred solution of Collin's reagent [chromium trioxide (1.01 g), pyridine(1.65 mL) in dry dichloromethane (30 mL)]. The suspension was stirred for 10 minutes, filtered and the residue washed with diethyl ether (20 mL). The filtrate was concentrated onto silica (10 g) and purified by flash chromatography (silica gel, eluent=hexane/diethyl-ether/triethylamine (90:9:1) to afford the title compound as a light yellow oil; (503 mg, 48%); 1H NMR (300 MHz, CDCl3) δ 10.25(s, 1H, CHO), 7.79(d, 1H, J=8.45 Hz), 6.98(d, 1H, J=8.46 Hz), 4.65(m, 1H), 3.89(s, 3H, OMe), 1.35(d, 6H, J=6.17 Hz), 0.97 (s, 9H), 0.45(s, 6H).

reactant | 2-t-butyldimethylsilyl-3-(t-butyldimethylsilyloxymethylene)-6-methoxy-7-isopropoxy-benzofuran | 2.69 mmol | [Si](C)(C)(C(C)(C)C)C1OC2=C(C1=CO[Si](C)(C)C(C)(C)C)C=CC(=C2OC(C)C)OC | C25H44O4Si2
reactant | hydrochloric acid | 200 μL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 2-t-Butyldimethylsilanyl-3-formyl-6-methoxy-7-isopropoxy-benzofuran | [Si](C)(C)(C(C)(C)C)C=1OC2=C(C1C=O)C=CC(=C2OC(C)C)OC | C19H28O4Si
